2119-10-18 07:21:00 Physician Resident Progress Note
Chief Complaint: UGIB
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2119-10-17**] 02:48 PM
 ENDOSCOPY - At [**2119-10-17**] 05:00 PM
   - R IJ placed
   - EGD with subsequent banding of varices- showed portal gastropathy.
   Sigmoidoscopy also done- negative for bleed.
   - Liver C/S with labs sent to work-up idiopathic cirrhosis
   - Surgery consulted
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2119-10-17**] 08:59 AM
   Ciprofloxacin - [**2119-10-17**] 10:00 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2119-10-17**] 06:10 PM
   Fentanyl - [**2119-10-17**] 06:20 PM
   Pantoprazole (Protonix) - [**2119-10-17**] 08:01 PM
   Morphine Sulfate - [**2119-10-18**] 04:29 AM
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, Edema
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea
   Genitourinary: Foley
   Neurologic: No(t) Headache
   Flowsheet Data as of  [**2119-10-18**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 100 (85 - 114) bpm
   BP: 151/90(104) {96/43(62) - 159/107(104)} mmHg
   RR: 12 (10 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 55 Inch
             Total In:
                                                                  7,328 mL
                                                                  1,117 mL
   PO:
             TF:
   IVF:
                                                                  3,667 mL
                                                                  1,117 mL
   Blood products:
                                                                  1,286 mL
   Total out:
                                                                    478 mL
                                                                    170 mL
   Urine:
                                                                    428 mL
                                                                    140 mL
   NG:
                                                                     50 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  6,850 mL
                                                                    947 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Tone: Normal
   Labs / Radiology
   125 K/uL
   8.4 g/dL
   125 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.8 mEq/L
   25 mg/dL
   112 mEq/L
   140 mEq/L
   24.7 %
   13.3 K/uL
        [image002.jpg]
                            [**2119-10-17**]  10:19 AM
                            [**2119-10-17**]  06:11 PM
                            [**2119-10-17**]  11:44 PM
                            [**2119-10-18**]  04:02 AM
   WBC
   17.0
   13.3
   Hct
   26.6
   25.1
   25.2
   24.7
   Plt
   135
   125
   Cr
   0.7
   0.8
   Glucose
   132
   125
   Other labs: PT / PTT / INR:18.0/30.1/1.6, ALT / AST:25/34, Alk Phos / T
   Bili:94/1.6, Differential-Neuts:92.2 %, Band:0.0 %, Lymph:3.9 %,
   Mono:3.7 %, Eos:0.1 %, Lactic Acid:1.5 mmol/L, Ca++:7.4 mg/dL, Mg++:1.9
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   Assesment: This is a 68 yo F w/ hx of cervical cancer, s/p
   hysterectomy, and prior hx of GIB (unknown source) presenting with
   rectal/vaginal bleeding, hematemesis, and hematuria with evidence of
   rectovaginal fistula and varices (?esophageal) on CT scan at OSH.
   .
   Plan:
   # Acute blood loss anemia: Pt with acute onset GI bleeding. Upper GI
   bleed suspected given hematemesis, also having substantial bright red
   blood from below. Rectovaginal fistula seen on CT scan and suspected
   given blood from vagina in setting of past hysterectomy. Also with
   sustained hematuria suggesting possible fistula to bladder as well. HCT
   cont. to drop upon transfer to [**Hospital1 1**] despite 2u pRBCs.
   - Liver team consulted- EGD yesterday banded esophageal varices, showed
   portal gastropathy and sigmoidoscopy w/ evidence of radiation proctitis
   but otherwise nl.
   -s/p banding, Hct now stable at 24.7
   - Abd U/S w/ evidence of cirrhosis, no portal vein thrombosis, moderate
   ascites
   - cordis in place.
   - Protonix IV 40mg [**Hospital1 **], sucralfate s/p EGD with banding, octreotide gtt
   - Ciprofloxacin 400IV [**Hospital1 **] for SBP ppx in case of ascites
   - Hepatitis serologies pending
   - diet clear liquids for now. Will consider advancing as tolerated
   .
   # h/o cervical cancer: Radiation may be cause of fistula.
   -gyn consulted today
   .
   # FEN:   clear liquids, replete lytes prn
   .
   # Access: cordis
   .
   # PPx: pneumoboots, PPI
   .
   # Code: Full, confirmed with patient and ICU consent/blood consent
   obtained
   .
   # Dispo: ICU level of care for now- will discuss on rounds
   .
   # Comm: Significant other: [**First Name4 (NamePattern1) 1729**] [**Name (NI) **] - [**Telephone/Fax (1) 1730**], c [**Telephone/Fax (1) 1731**]
   ICU Care
   Nutrition: Clear liquids
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2119-10-17**] 09:06 AM
   Cordis/Introducer - [**2119-10-17**] 02:48 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  n/a
   Comments:
   Communication:  Comments:   w. pt and  Significant other: [**First Name4 (NamePattern1) 1729**] [**Last Name (NamePattern1) **]
   - [**Telephone/Fax (1) 1730**], c [**Telephone/Fax (1) 1731**]
   Code status: Full code
   Disposition:ICU for now. Will discuss on rounds
   ------ Protected Section ------
   I saw and examined the patient with the medical ICU resident and was
   present during key portions of the services provided. EGD yesterday
   with documented varices and portal gastropathy, s/p banding given
   stigmata of recent bleeding.  Transfused 4 u pRBCs, last yesterday
   afternoon.  Had limited sigmoidoscopy given poor visualization given
   retained stool (enema of limited utility given fistula/anatomy Notes
   significant dry mouth this morning, denies pain, nausea.   Nursing
   notes large amount of discharge from vaginal area
 question urine.
   ).  Has been hemodynamically stable, actually hypertensive.  Exam
   unchanged, still with 4+ bilateral lower extremity edema.  Right IJ
   cortis in place, no surrounding erythema or discharge.
   Continues to need ICU monitoring, serial CBCs. Continue
   cipro/octreotide/PPI/sucralfate.  Start lasix and aldactone. Check
   hepatitis serologies.  Gynecology and urology to consult given
   rectal-vaginal fistula, concern for possible bladder involvement.
   Consider fistulogram.  Agree with Dr. [**Last Name (STitle) **]
s assessment and plan
   above.
   Total time spent: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2119-10-18**] 14:04 ------

2119-10-19 06:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Hep serologies positive for HepC
   -GYN consulted- will be staffed with Gyn onc today
   -Pt started on aldactone (pt did not recieve due to intolerance of
   PO's) and IV lasix
   -Urology consulted. Came in at 11pm and did methylene blue dye test for
   communication btwn bladder and vagina but this did not show much. She
   was irragated by hand about 1L taking out a lot of blood and clot and
   placed on CBI. Urology is now following.
   -Following irrigation. Hct dropped ~2pts. Ordered 1 u PRBCs early in
   the am [**10-19**].
   -Octreotide d/c per liver
   -gave vit K x1
   -pt continued to have intermittent pain treated with IV morphine
   (particularly after bladder irrigation)
   -Pt unable to tolerate PO's [**1-21**] vomitting and made NPO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2119-10-17**] 08:59 AM
   Ciprofloxacin - [**2119-10-18**] 10:01 PM
   Metronidazole - [**2119-10-19**] 02:06 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-10-18**] 08:28 AM
   Morphine Sulfate - [**2119-10-19**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-10-19**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 93 (76 - 113) bpm
   BP: 133/56(75) {98/48(67) - 162/87(102)} mmHg
   RR: 13 (0 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 55 Inch
             Total In:
                                                                  3,451 mL
                                                                    736 mL
   PO:
             TF:
   IVF:
                                                                  3,451 mL
                                                                    736 mL
   Blood products:
   Total out:
                                                                    230 mL
                                                                      0 mL
   Urine:
                                                                    200 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  3,221 mL
                                                                    736 mL
   Respiratory support
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   Gen: NAD, AOx3
   CV: RRR, No M/R/G
   Pulm: CTAB anteriorly
   Abd: Distended but soft, NT
   Extr: 3+ edema to above thighs
   Labs / Radiology
   136 K/uL
   7.4 g/dL
   134 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.1 mEq/L
   35 mg/dL
   113 mEq/L
   138 mEq/L
   21.9 %
   12.3 K/uL
        [image002.jpg]
                            [**2119-10-17**]  10:19 AM
                            [**2119-10-17**]  06:11 PM
                            [**2119-10-17**]  11:44 PM
                            [**2119-10-18**]  04:02 AM
                            [**2119-10-18**]  02:38 PM
                            [**2119-10-19**]  12:58 AM
                            [**2119-10-19**]  05:11 AM
   WBC
   17.0
   13.3
   14.6
   13.7
   12.3
   Hct
   26.6
   25.1
   25.2
   24.7
   24.0
   22.2
   21.9
   Plt
   135
   125
   146
   146
   136
   Cr
   0.7
   0.8
   1.1
   1.4
   Glucose
   132
   125
   216
   134
   Other labs: PT / PTT / INR:18.0/30.1/1.6, ALT / AST:27/50, Alk Phos / T
   Bili:87/1.0, Differential-Neuts:92.2 %, Band:0.0 %, Lymph:3.9 %,
   Mono:3.7 %, Eos:0.1 %, Lactic Acid:1.5 mmol/L, LDH:276 IU/L, Ca++:7.2
   mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 .H/O CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   Assesment: This is a 68 yo F w/ hx of cervical cancer, s/p
   hysterectomy, and prior hx of GIB (unknown source) presenting with
   rectal/vaginal bleeding, hematemesis, and hematuria with evidence of
   rectovaginal fistula and varices (?esophageal) on CT scan at OSH.
   .
   Plan:
   # Acute blood loss anemia: Pt had EGD on [**10-17**] with banding of varices,
   sigmoidoscopy w/ evidence of radiation proctitis but otherwise nl, also
   having substantial bright red blood from below. Rectovaginal fistula
   seen on CT scan and suspected given blood from vagina in setting of
   past hysterectomy. Also with sustained hematuria suggesting possible
   fistula to bladder as well. Urology irrigated bladder with multiple
   clots coming out, started CBI. After small Hct drop - transfused 1U
   pRBCs.  Unclear where blood is coming from.
   - cordis in place.
   - Monitor serial hcts
 transfuse for <21 or acute drop
   - Consider repeat CT for ? of recto-vaginal-bladder fistula
   - Continue CBI per Urology recs
   - with h/o cervical ca, gyn/onc consulted
 f/u recs
   .
   # ARF: Cr bumped from 1.1 to 1.4 with lasix diuresis.  UOP difficult to
   quantify given fistulas and CBI.
   - Urine lytes if can get urine sample (on CBI)
   - hold lasix for now
   - Consider gentle IVF PRN
   .
   # Cryptogenic cirrhosis: Abd U/S w/ evidence of cirrhosis, no portal
   vein thrombosis, moderate ascites. Hepatitis C positive.  Varices
   banded during EGD on [**2119-10-17**].
   - Hepatology consulted and started aldactone (poorly tolerating PO
   pills) and lasix.
   - Ciprofloxacin 400IV [**Hospital1 **] for SBP ppx in case of ascites
   - Protonix IV 40mg [**Hospital1 **], sucralfate s/p EGD with banding, octreotide gtt
   - F/U hepatology recs
   .
   # h/o cervical cancer: Radiation may be cause of fistula.
   -gyn/onc should staff today
 f/u recs
   .
   # FEN:   clear liquids, replete lytes prn
   .
   # Access: cordis
   .
   # PPx: pneumoboots, PPI
   .
   # Code: Full, confirmed with patient and ICU consent/blood consent
   obtained
   .
   # Dispo: ICU level of care for now- will discuss on rounds
   .
   # Comm: Significant other: [**First Name4 (NamePattern1) 1729**] [**Name (NI) **] - [**Telephone/Fax (1) 1730**], c [**Telephone/Fax (1) 1731**]
   ICU Care
   Nutrition: sips
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2119-10-17**] 02:48 PM
   20 Gauge - [**2119-10-19**] 01:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Sucralafate
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:

2119-10-19 09:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Urology consult yesterday - tried to assess for communication with
   bladder by infusing methylene blue albeit bleeding too great to be able
   to fully evaluate this at the bedside.
   CBI clear this morning; continues to leak large amounts of straw
   colored fluid around foley
   Hct drifted down to 21.6, receiving another u pRBCs
   INR 1.6
   Continues in positive fluid balance; started lasix and aldactone
   yesterday
   Hep C positive
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2119-10-17**] 08:59 AM
   Ciprofloxacin - [**2119-10-18**] 10:01 PM
   Metronidazole - [**2119-10-19**] 02:06 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2119-10-19**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Gastrointestinal: Nausea, burping
   Pain: [**2-21**] Mild
   Pain location: with foley manipulation
   Flowsheet Data as of  [**2119-10-19**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 93 (76 - 109) bpm
   BP: 133/56(75) {98/48(67) - 162/87(96)} mmHg
   RR: 13 (7 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 55 Inch
           Total In:
                                                                  3,451 mL
                                                                  1,352 mL
   PO:
           TF:
   IVF:
                                                                  3,451 mL
                                                                  1,004 mL
   Blood products:
   348 mL
   Total out:
                                                                    230 mL
                                                                      0 mL
   Urine:
                                                                    200 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  3,221 mL
                                                                  1,352 mL
   Respiratory support
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 4+, Left: 4+, pitting to thighs bilaterally
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): fyully oriented, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.4 g/dL
   136 K/uL
   134 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.1 mEq/L
   35 mg/dL
   113 mEq/L
   138 mEq/L
   21.9 %
   12.3 K/uL
        [image002.jpg]
                            [**2119-10-17**]  10:19 AM
                            [**2119-10-17**]  06:11 PM
                            [**2119-10-17**]  11:44 PM
                            [**2119-10-18**]  04:02 AM
                            [**2119-10-18**]  02:38 PM
                            [**2119-10-19**]  12:58 AM
                            [**2119-10-19**]  05:11 AM
   WBC
   17.0
   13.3
   14.6
   13.7
   12.3
   Hct
   26.6
   25.1
   25.2
   24.7
   24.0
   22.2
   21.9
   Plt
   135
   125
   146
   146
   136
   Cr
   0.7
   0.8
   1.1
   1.4
   Glucose
   132
   125
   216
   134
   Other labs: PT / PTT / INR:17.7/30.8/1.6, ALT / AST:27/50, Alk Phos / T
   Bili:87/1.0, Differential-Neuts:92.2 %, Band:0.0 %, Lymph:3.9 %,
   Mono:3.7 %, Eos:0.1 %, Lactic Acid:1.5 mmol/L, LDH:276 IU/L, Ca++:7.2
   mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB) secondary to
   cirrhosis and esophageal varices.  Hemodynamically stable albeit hct
   drifted down again over the day yesterday; feel this is largely
   dilutional but will continue to follow for evidence of active
   bleeding.  Repeat hct this afternoon following blood transfusion.
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL):  Have consulted gynecological oncology sevice
   to review scans and evaluate the patient.  Awaiting recommendations.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Had recieved morphine
   overnight but most of the discomfort was related to manipulation of
   foley/bladder irrigations during urology exam. Comfortalbe this
   morning.
 CIRRHOSIS:  Has positive hep C serology.
 EDEMA insetting of cirrhosis. Plan to start aldactone and lasix given
   hemodynamically stable and not actively bleeding.
   Agree with assessment and plan as per medical ICU resident's note;
   plans discussed on morning rounds.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2119-10-17**] 02:48 PM
   20 Gauge - [**2119-10-19**] 01:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments: also sucralfate
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2119-10-20 06:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 2 18 gauge PIVs placed (in addition to 20), Cordis pulled.
   - Hepatology recommended diagnostic paracentesis (scheduled with IR
   today)
   - Urology recommended CT cystogram ordered for today
   - Gyn-onc recommened outpatient f/u
   - Hep C viral load and genotype sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2119-10-17**] 08:59 AM
   Ciprofloxacin - [**2119-10-19**] 10:01 PM
   Metronidazole - [**2119-10-20**] 02:20 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2119-10-19**] 06:22 PM
   Pantoprazole (Protonix) - [**2119-10-19**] 08:46 PM
   Other medications:
   Changes to medical and family history: No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Feeling well. Slept well. No fevers, chills. No
   hemoptysis, BRBPR or melena. No bowel movements overnight. No chest
   pain, SOB or abdominal pain.
   Flowsheet Data as of  [**2119-10-20**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 83 (75 - 103) bpm
   BP: 118/45(64) {111/44(63) - 138/84(94)} mmHg
   RR: 15 (12 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 55 Inch
             Total In:
                                                                  3,574 mL
                                                                    727 mL
   PO:
             TF:
   IVF:
                                                                  3,224 mL
                                                                    727 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                      0 mL
                                                                    750 mL
   Urine:
   750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,574 mL
                                                                    -23 mL
   Respiratory support
   SpO2: 93%
   ABG: ///21/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: EOMI, PERRL, Scleara Anicteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: Crackles
 up posteriorly bilaterally, clear
   anteriorly and superiorly. No wheezes or rhonchi.
   Abdominal: Soft, Non-tender, obese,  Bowel sounds present
   Extremities: Right: 4+, Left: 4+, pitting to thighs bilaterally
   Skin:  Warm
   Neurologic: A0x3, Motor grossly intact.
   Labs / Radiology
   321 K/uL
   11.0 g/dL
   129 mg/dL
   1.4 mg/dL
   21 mEq/L
   3.7 mEq/L
   36 mg/dL
   113 mEq/L
   141 mEq/L
   31.0 %
   9.4 K/uL
        [image002.jpg]
                            [**2119-10-17**]  10:19 AM
                            [**2119-10-17**]  06:11 PM
                            [**2119-10-17**]  11:44 PM
                            [**2119-10-18**]  04:02 AM
                            [**2119-10-18**]  02:38 PM
                            [**2119-10-19**]  12:58 AM
                            [**2119-10-19**]  05:11 AM
                            [**2119-10-19**]  11:41 AM
                            [**2119-10-19**]  05:06 PM
                            [**2119-10-20**]  04:21 AM
   WBC
   17.0
   13.3
   14.6
   13.7
   12.3
   12.7
   9.4
   Hct
   26.6
   25.1
   25.2
   24.7
   24.0
   22.2
   21.9
   26.8
   26.8
   31.0
   Plt
   135
   125
   146
   146
   136
   137
   321
   Cr
   0.7
   0.8
   1.1
   1.4
   1.4
   1.4
   Glucose
   132
   125
   216
   134
   160
   129
   Other labs: PT / PTT / INR:18.9/31.3/1.7, ALT / AST:28/46, Alk Phos / T
   Bili:93/1.1, Differential-Neuts:92.2 %, Band:0.0 %, Lymph:3.9 %,
   Mono:3.7 %, Eos:0.1 %, Lactic Acid:1.5 mmol/L, Albumin:2.1 g/dL,
   LDH:289 IU/L, Ca++:7.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   68 yo F w/ hx of cervical cancer, s/p hysterectomy, GIB p/w upper GI
   Bleed with evidence of rectal/vaginal bleeding, hematemesis, and
   hematuria.
   # Upper GI Bleed with rctovaginal and question vesticoentertic
   fistulas.  Now s/p banding. Hct stable at 31 from 26. CBI overnight
   with fewer clots, yellow color.
   - 3 PIVs
   - [**Hospital1 **] Hcts.  transfuse for <21 or acute drop
   - Consider repeat CT for ? of recto-vaginal-bladder fistula
   - Continue CBI per Urology recs
   - with h/o cervical ca, gyn/onc consulted
 f/u recs
   # Cryptogenic cirrhosis: Abd U/S w/ evidence of cirrhosis. Now Hep C
   antibody positive with viral load and genotype pending. [**Doctor First Name **] and smooth
   muscle now also positive. DDx includes HCV induced, autoimmune.  AFP
   11.
   - Hepatology following
   - Diagnostic paracentesis today
   - Cont Lasix/Aldactone
   - Ciprofloxacin 400IV [**Hospital1 **] for SBP ppx in case of ascites
   - Protonix IV 40mg [**Hospital1 **], sucralfate s/p EGD with banding, octreotide gtt
   # Vesticuloenteric fistula? No further evidence of clots overnight.
   -          Urology following
   -          CT cystogram today
   # Enterovaginal Fistula. No evidence of further stool or bleeding from
   vagina. Surgery following
   -          no current interventions
   -          Empiric coverage with Flagyl, will discuss with team whether
   ok to d/c
   # ARF: Cr stable at  1.4  from 1.4 yesterday and 1.1 on admission with
   lasix diuresis.  UOP difficult to quantify given fistulas and CBI.
   - To cont Lasix/Aldactone for ascites, edema
   - Consider gentle IVF PRN
   .
   # h/o cervical cancer: Radiation may be cause of fistula. Gyn-Onc saw
   pt yesterday. No current interventions
   - Gyn-Onc Outpatient follow-up
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge
   18 x 2 Gauge
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPi, Sucralafate:
   Communication:  [**First Name4 (NamePattern1) 1729**] [**Last Name (NamePattern1) **] - [**Telephone/Fax (1) 1730**], c [**Telephone/Fax (1) 1731**]
   Code status: Full code
   Disposition: [**Hospital Unit Name 10**]

2119-10-20 11:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CORDIS/INTRODUCER - STOP [**2119-10-19**] 11:45 AM
   Two large bore IVs placed
   No hematemesis
   CBI - clear
   Transfused 1 u pRBCs yesterday am
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-10-19**] 10:01 PM
   Metronidazole - [**2119-10-20**] 02:20 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2119-10-19**] 06:22 PM
   Pantoprazole (Protonix) - [**2119-10-19**] 08:46 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2119-10-20**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 84 (75 - 95) bpm
   BP: 122/56(73) {110/44(63) - 136/84(94)} mmHg
   RR: 11 (11 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 55 Inch
             Total In:
                                                                  3,574 mL
                                                                  1,247 mL
   PO:
             TF:
   IVF:
                                                                  3,224 mL
                                                                  1,247 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                      0 mL
                                                                    950 mL
   Urine:
   950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,574 mL
                                                                    297 mL
   Respiratory support
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   321 K/uL
   129 mg/dL
   1.4 mg/dL
   21 mEq/L
   3.7 mEq/L
   36 mg/dL
   113 mEq/L
   141 mEq/L
   31.0 %
   9.4 K/uL
        [image002.jpg]
                            [**2119-10-17**]  10:19 AM
                            [**2119-10-17**]  06:11 PM
                            [**2119-10-17**]  11:44 PM
                            [**2119-10-18**]  04:02 AM
                            [**2119-10-18**]  02:38 PM
                            [**2119-10-19**]  12:58 AM
                            [**2119-10-19**]  05:11 AM
                            [**2119-10-19**]  11:41 AM
                            [**2119-10-19**]  05:06 PM
                            [**2119-10-20**]  04:21 AM
   WBC
   17.0
   13.3
   14.6
   13.7
   12.3
   12.7
   9.4
   Hct
   26.6
   25.1
   25.2
   24.7
   24.0
   22.2
   21.9
   26.8
   26.8
   31.0
   Plt
   135
   125
   146
   146
   136
   137
   321
   Cr
   0.7
   0.8
   1.1
   1.4
   1.4
   1.4
   Glucose
   132
   125
   216
   134
   160
   129
   Other labs: PT / PTT / INR:18.9/31.3/1.7, ALT / AST:28/46, Alk Phos / T
   Bili:93/1.1, Differential-Neuts:92.2 %, Band:0.0 %, Lymph:3.9 %,
   Mono:3.7 %, Eos:0.1 %, Lactic Acid:1.5 mmol/L, Albumin:2.1 g/dL,
   LDH:289 IU/L, Ca++:7.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 H/O CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL): Evaluated by Gyne/Onc service.  Obtaining
   further imaging to establish anatomy with question of fistula(s).
   Appreciate input from urology consultants as well.  Continues CBI which
   remians clear; leakage still around the foley vs. presence of fistula
   with bladder communication.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): Denies pain.
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB):  Last
   transfused yesterday am.  Hct stable. On PPI/carafate.
 CIRRHOSIS with hep C.  Had therapeutic and diagnostic pericentesis
   this morning, ~ 2 L taken off. abdomen much softer this morning, still
   leaking from pericentesis site.   Need to follow-up on results.
 RENAL INSUFFICIENCY:  Creatinine remains elevated but stable at 1.4.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2119-10-19**] 01:00 AM
   18 Gauge - [**2119-10-19**] 11:22 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes